US04477618
Into a one-liter, four-necked, round bottom flask equipped with stirrer, condenser, thermometer and addition funnel, 36.5 parts of 2,2,4-trimethyl-1,3-pentanediol and 632.0 parts of pyridine were mixed under a nitrogen blanket and cooled to 0° C. using an ice water bath. Subsequently, 117.3 parts of o-carbomethoxybenzenesulfonyl chloride were added in small portions over a two hour period while maintaining the temperature below 10° C. The aforesaid mixture was maintained at a temperature between 0° C. and 10° C. for a two hour period and then refrigerated at 15° C. for at least twenty-four hours prior to work-up. For work-up the reaction mixture was poured into 1000 parts of ice water and subsequently extracted with 500 parts of methylene chloride. The organic layer was washed successively with cold, dilute 6N sulfuric acid (twice with 500 part-portions), cold, dilute sodium bicarbonate (once with 500 parts), and water (until the water layer was neutral to pH paper). It was then dried over sodium sulfate, filtered, and the solvent removed in vacuo to yield the 2,2,4-trimethyl-1,3-pentanediyl bis-(ortho-carbomethoxybenzenesulfonate).

reactant | 2,2,4-trimethyl-1,3-pentanediol | CC(CO)(C(C(C)C)O)C | C8H18O2
reactant | o-carbomethoxybenzenesulfonyl chloride | C(=O)(OC)C1=C(C=CC=C1)S(=O)(=O)Cl | C8H7ClO4S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2,2,4-trimethyl-1,3-pentanediyl bis-(ortho-carbomethoxybenzenesulfonate) | C(=O)(OC)C1=C(C=CC=C1)S(=O)(=O)OCC(C(C(C)C)OS(=O)(=O)C1=C(C=CC=C1)C(=O)OC)(C)C | C24H30O10S2
